US07037938B2
To a solution of tert-butyl [2-(4-bromophenyl)ethyl]-[(2R)-2-(3-chlorophenyl)-2-hydroxyethyl]carbamate (365 mg) in 1,2-dimethoxyethane (6 ml) was added [4-(ethoxycarbonyl)-2-methoxyphenyl]boronic acid (216 mg), tetrakis(triphenylphosphine)palladium (46 mg) and aqueous solution of sodium carbonate (2M, 0.85 ml), and the mixture was stirred at 80° C. for 4 hours under nitrogen. The mixture was diluted with ethyl acetate and water. The organic layer was separated, washed with brine, dried over magnesium sulfate and evaporated under reduced pressure. The residue was purified by column chromatography on silica gel (hexane/ethyl acetate=2/1) to give ethyl 4′-[2-[(tert-butoxycarbonyl)[(2R)-2-(3-chlorophenyl)-2-hydroxyethyl]-amino]ethyl]-2-methoxy-1,1′-biphenyl-4-carboxylate (222 mg).

reactant | tert-butyl [2-(4-bromophenyl)ethyl]-[(2R)-2-(3-chlorophenyl)-2-hydroxyethyl]carbamate | 365 mg | BrC1=CC=C(C=C1)CCN(C(OC(C)(C)C)=O)C[C@H](O)C1=CC(=CC=C1)Cl | C21H25BrClNO3
reactant | [4-(ethoxycarbonyl)-2-methoxyphenyl]boronic acid | 216 mg | C(C)OC(=O)C1=CC(=C(C=C1)B(O)O)OC | C10H13BO5
reactant | sodium carbonate | 2M, 0.85 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 6 ml | COCCOC | C4H10O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 46 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | ethyl 4′-[2-[(tert-butoxycarbonyl)[(2R)-2-(3-chlorophenyl)-2-hydroxyethyl]-amino]ethyl]-2-methoxy-1,1′-biphenyl-4-carboxylate | 222 mg | C(C)(C)(C)OC(=O)N(CCC1=CC=C(C=C1)C1=C(C=C(C=C1)C(=O)OCC)OC)C[C@H](O)C1=CC(=CC=C1)Cl | C31H36ClNO6
